US07737135B2
a) 1-(4-bromo-2-methylbenzoyl)pyrrolidine
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-methyl benzoic acid and pyrrolidine.

reactant | 4-bromo-2-methyl benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-(4-bromo-2-methylbenzoyl)pyrrolidine | BrC1=CC(=C(C(=O)N2CCCC2)C=C1)C | C12H14BrNO
